Name:  ___.                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
flu shot  / adhesive tape / codeine / Benadryl
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with PMH notable for heart failure with 
preserved
EF, moderate TR, mild MR, atrial fibrillation not on AC due to
recurrent GI bleeding, dilated ascending aorta, HTN, HLD, T2DM
who presents with cough, headache, fatigue and orthopnea.
  
 His breathing has been getting worse for the past ___ months,
but much worse for about a week. Specifically, he notes that he
is unable to lay flat because he gets too short of breath, and
has to sleep in his chair. He has also noticed significant 
weight
gain and swelling, particularly in the abdomen such that his
clothes don't fit. He has also noted swelling in his ankles and
feet. This feels exactly like prior CHF exacerbations to him. He
has not been taking his diuretics (spironolactone and Lasix) for
___ months, and does not limit salt in his diet. He along with
his daughter are the primary caretakers for his wife with
progressive dementia, and the frequent urination was disrupting
his day, particularly taking her to appointments.  

 Since ___ he has also felt increasing fatigue, sore
throat, headache, rhinorrhea with blood in discharge, muscle
aches and dry cough. Denies fevers/chills, chest pain.  

He was recently hospitalized ___ for an acute exacerbation of
his heart failure, and he was discharged before his dry weight
was reached due to familial circumstance. His discharge weight
was 238 lbs, Discharge diuretics regimen: Lasix 80 mg daily, and
discharge Cr: 1.0. 

Since that time he has received 2 transfusions in ___ for his
pancytopenia. 

 
In the ED:  
Vitals: notable for worsening O2 requirement now on 4L (on RA
initially), TMax 99.6

Exam notable for:
 Gen: morbidly obese, fatigued-appearing, but alert and
interactive, NAD
 CV: Pulsation seen at earlobe that increases with abdominal
pressure though hard to differentiate between arterial and 
venous
pulsation as there is palpable arterial pulsation in the same
region; irregular irregular rhythm, regular rate, II/VI
holosystolic murmur at USB
 PULM: Markedly decreased breath sounds throughout, minimal
crackles heard at the bases b/l, no wheezes
 ABD: obese, soft, NT, mildly distended
 EXT: chronic venous stasis changes b/l, 1+ pedal pitting edema
b/l, wwp

 ECG: RBBB with left anterior fasicular block
 
Labs/studies notable for: 
- chem 7--normal 
- cbc/diff--normal 
- pro-bnp--333
- CXR Opacities at each lung base, similar to the prior study,
however. This  indicates either recurrent pneumonia, atelectasis
or possibly these are areas of chronic scarring that have
developed.  Follow-up radiographs may be helpful to reassess in
approximately 6 weeks. 

 
Patient was given: 
Lasix 40 x 2
Lasix 80 x1
Lasix 40 x1
ASA 81
Losartan 100
Digoxin 125
 
Vitals on transfer:  

 T98.2 HR 77 BP 127/61 RR 18 O2sat 94% RA 
 
On the floor patient still with cough and sore throat, but
resting comfortably in chair on 2L O2.  

REVIEW OF SYSTEMS:  
Positive per HPI.  
Cardiac review of systems is notable for absence of chest pain,
palpitations, syncope, or presyncope.  

On further review of systems, denies fevers or chills. Denies 
any
prior history of stroke, TIA, deep venous thrombosis, pulmonary
embolism, bleeding at the time of surgery, myalgias, joint 
pains,
cough, hemoptysis, black stools or red stools. Denies exertional
buttock or calf pain. All of the other review of systems were
negative.  

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- T2DM
- Hypertension 
- HLD 

2. CARDIAC HISTORY  
- No known CAD (no cath in record, Pt does not recall ever 
having
cath)   
- CHFpEF with mild MR, mod TR 
- Rhythm: Atrial fibrillation (not on anticoagulation due to GI
bleeding)  

3. OTHER PAST MEDICAL HISTORY 
- Dilated ascending aorta 
- Recurrent GI bleeding (unclear etiology, thought ___
diverticulosis vs. erosions vs. post-polypectomy) 
- prior R ankle foot surgery - Charcot joint
- prior L leg wound infection requiring hyperbaric oxygen
- appendectomy
- Tonsilectomy
- UTI
- colonic polyps, rectal prolapse
- Macular edema
- BPH
- facial squamous cell cancer
- Iron deficiency anemia
- Pancytopenia  

 
Social History:
___
Family History:
Mother died of CHF  
Father died of emphysema (heavy smoker)
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===========================
VS: T 98.6 BP 169 / 69 HR 82 RR 20 O2sat 95% on 2L  
GENERAL: Well developed, well nourished obese male in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic, well-healed scar on left face. Sclera
anicteric. PERRL. EOMI. Conjunctiva were pink. Slight pallor of
mucosa. No xanthelasma.  
NECK: Supple. JVP of 14 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate irregular rhythm. Normal S1, S2. II/IV
holosystolic murmur heard best at LUSB.   
LUNGS: No chest wall deformities or tenderness. Intermittent
cough. Respiration is unlabored with no accessory muscle use on 
2
L NC. Crackles bilaterally to mid lung fields.  
ABDOMEN: Obese, distended, nontender to palpation. No
organomegally appreciated.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Lower
extremity 1+ pitting edema to mid shin bilaterally with chronic
stasis changes.
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM
==========================
24 HR Data (last updated ___ @ 806)
    Temp: 97.4 (Tm 98.6), BP: 133/61 (96-151/49-76), HR: 84
(61-84), RR: 18 (___), O2 sat: 91% (91-95), O2 delivery: RA,
Wt: 242.72 lb/110.1 kg  

Fluid Balance (last updated ___ @ 2304) 
  Last 8 hours No data found
  Last 24 hours  Total cumulative -1210ml
    IN: Total 440ml, PO Amt 440ml
    OUT:  Total 1650ml, Urine Amt 1650ml  

GENERAL: Well developed, well nourished obese male in NAD.
Oriented x3. Mood, affect appropriate.  
HEENT: Normocephalic, well-healed scar on left face. Sclera
anicteric. PERRL. EOMI. Conjunctiva were pink. Slight pallor of
mucosa. No xanthelasma.  
NECK: Supple. 
CARDIAC: PMI located in ___ intercostal space, midclavicular
line. Regular rate irregular rhythm. Normal S1, S2. II/IV
holosystolic murmur heard best at LUSB.   
LUNGS: No chest wall deformities or tenderness. Intermittent
cough. Respiration is unlabored with no accessory muscle use on 
2
L NC. Bibasilar crackles
ABDOMEN: Obese, distended, nontender to palpation. No
organomegally appreciated.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis. Lower
extremity 1+ pitting edema to ankle bilaterally, L>R with 
chronic
stasis changes.
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS
==================

___ 07:55PM BLOOD WBC-7.1 RBC-3.55* Hgb-10.5* Hct-33.6* 
MCV-95 MCH-29.6 MCHC-31.3* RDW-12.7 RDWSD-44.3 Plt Ct-87*
___ 07:55PM BLOOD Neuts-58.7 Lymphs-16.9* Monos-19.3* 
Eos-2.0 Baso-0.1 Im ___ AbsNeut-4.16 AbsLymp-1.20 
AbsMono-1.37* AbsEos-0.14 AbsBaso-0.01
___ 07:55PM BLOOD Plt Ct-87*
___ 07:55PM BLOOD Glucose-120* UreaN-30* Creat-1.0 Na-139 
K-5.6* Cl-98 HCO3-27 AnGap-14
___ 10:39PM BLOOD Glucose-178* UreaN-30* Creat-1.0 Na-143 
K-4.4 Cl-100 HCO3-29 AnGap-14
___ 07:55PM BLOOD cTropnT-0.03* proBNP-333
___ 10:39PM BLOOD Calcium-10.1 Phos-3.1 Mg-1.8
___ 07:21AM BLOOD Triglyc-68 HDL-38* CHOL/HD-2.8 LDLcalc-53

INTERVAL LABS
==================
___ 07:21AM BLOOD ALT-19 AST-23 AlkPhos-107 TotBili-0.8
___ 07:55PM BLOOD cTropnT-0.03* proBNP-333
___ 03:03AM BLOOD cTropnT-0.05*
___ 06:01AM BLOOD CK-MB-3 cTropnT-0.05*
___ 07:21AM BLOOD cTropnT-0.06*
___ 12:52PM BLOOD cTropnT-0.05*

DISCHARGE LABS
==================
___ 07:10AM BLOOD WBC-7.3 RBC-3.68* Hgb-10.7* Hct-33.6* 
MCV-91 MCH-29.1 MCHC-31.8* RDW-12.5 RDWSD-41.6 Plt ___
___ 07:10AM BLOOD Plt ___
___ 01:20PM BLOOD Glucose-233* UreaN-87* Creat-1.6* Na-134* 
K-4.8 Cl-87* HCO___-33* AnGap-14
___ 01:20PM BLOOD Calcium-9.5 Phos-4.5 Mg-2.6

IMAGING/STUDIES
===================
STRESS TEST ___
INTERPRETATION: This ___ yo man with h/o atrial fibrillation, 
HFpEF,  HTN, HLD, NIDDM, and BMI of 33 was referred to the lab 
from the  inpatient floor for evaluation. The patient was 
administered 0.4 mg  Regadenoson (Lexiscan) IV Bolus over 20 
seconds. There were no reports  of chest, back, neck, or arm 
discomforts during the study. In the  setting of RBBB with LAFB, 
the ST segments in the anterior leads were  uninterpretable for 
ischemia. There were no significant ST changes noted  in the 
other leads during infusion or recovery. Rhythm was atrial  
fibrillation with no ectopy. There was an appropriate heart rate 
and  blood pressure response to the infusion. Post-MIBI, the 
Regadenoson was  reversed with 60 mg Caffeine IV.  
IMPRESSION: No anginal type symptoms or objective evidence of 
ischemia.  Nuclear report sent separately.  

TTE ___
CONCLUSION:  The left atrial volume index is moderately 
increased. The right atrium is mildly enlarged. There is no  
evidence for an atrial septal defect by 2D/color Doppler. The 
estimated right atrial pressure is  >15mmHg. There is moderate 
symmetric left ventricular hypertrophy with a normal cavity 
size. There is  suboptimal image quality to assess regional left 
ventricular function. Quantitative biplane left ventricular  
ejection fraction is 63 %. There is no resting left ventricular 
outflow tract gradient. No ventricular septal  defect is seen. 
Diastolic parameters are indeterminate. Moderately dilated right 
ventricular cavity with  normal free wall motion. The aortic 
sinus diameter is normal for gender with mildly dilated 
ascending  aorta. The aortic arch is mildly dilated. The aortic 
valve leaflets (?#) are mildly thickened. There is no  aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with  no mitral valve 
prolapse. There is mild [1+] mitral regurgitation. The tricuspid 
valve leaflets appear  structurally normal. There is trivial 
tricuspid regurgitation. There is moderate pulmonary artery 
systolic  hypertension. There is no pericardial effusion.  

IMPRESSION: Preserved global left ventricular systolic function. 
Moderately dilated, normally  functioning right ventricle. At 
least moderate pulmonary hypertension. Mild mitral 
regurgitation.  Compared with the prior TTE (images reviewed) of 
___, the findings are similar.  

CLINICAL IMPLICATIONS: The patient has a mildly dilated 
ascending aorta. Based on ___  ACCF/AHA Thoracic Aortic 
Guidelines, if not previously known or a change, a follow-up  
echocardiogram is suggested

 
Brief Hospital Course:
PATIENT SUMMARY
==================
___ w/ HFpEF, moderate TR, mild MR, atrial fibrillation not on 
anticoagulation due to recurrent GI bleeding and patient 
preference, dilated ascending aorta, HTN, HLD, T2DM who 
presented for worsening dyspnea due to heart failure 
exacerbation, requiring lasix gtt for diuresis. 

ACUTE ISSUES
=================
# Heart failure with preserved ejection fraction (63% on 
___
Volume overloaded on exam with new oxygen requirement, 
orthopnea, and cough. Likely heart failure exacerbation in 
setting of med noncompliance and dietary indiscretion. EKG with 
Q waves in inferior leads and in reviewing echocardiogram with 
Dr. ___ wall motion abnormalities are present. pMIBI 
with no evidence of focal perfusion defects, and normal wall 
motion, and TTE with no changes from previous, so coronary 
angiography was not pursued. Improved with diuresis, weight on 
day of discharge 110.1 kg (242.72 lb). Patient was discharged on 
diuretic holiday due to ___, with plan to restart at increased 
dose of 40 mg furosemide daily starting the day after discharge, 
and to check chem10 and follow up with PCP ___ ___ days post 
discharge. 

# Acute on chronic hypoxemic respiratory failure
Intermittently requiring ___ O2 during this hospitalization. 
Per patient, he has been wearing O2 at home at night to help him 
sleep, although it was originally for his wife. Likely due to 
heart failure exacerbation, although also with symptoms of URI. 
Improved throughout hospitalization, did not require oxygen on 
discharge. 

# Upper respiratory infection
Sore throat and runny nose, nonproductive cough. No fevers or 
chills. Likely viral given unremarkable CXR and lack of WBC. 
Viral swabs without enough cells for culture, although PCR 
negative for Influenza a/b. Improved throughout his 
hospitalization. 

# Acute kidney injury
Patient with initial improvement in Creatinine, and then 
subsequent rise with diuresis. Decreasing on afternoon of 
discharge to 1.6. Plan for diuretic holiday for one day, with 
chem10 and follow up with PCP ___ days post discharge to ensure 
resolution. 

CHRONIC ISSUES
================
# Permanent atrial fibrillation (CHADS2VASC 5)
Not on anticoagulation due to patient preference and history of 
GI bleeds. Rate control switched from diltiazem to carvedilol 
this hospitalization. 

# Type 2 Diabetes Mellitus - patient maintained on home lantus 
and insulin sliding scale. Was intermittently hypoglycemic in 
the mornings, so glargine was decreased from 66 to 60 units at 
bedtime. Home metformin was held during this hospitalization 
with plan to restart as outpatient.

# Hypertension - Patient intermittently hypertensive, improved 
on carvedilol. Maintained on home losartan and spironolactone. 

# Hyperlipidemia 
Increased atorvastatin to 40 mg QHS

# BPH 
Continued Finasteride 5 mg PO DAILY

# Iron deficiency anemia
# Pancytopenia 
Followed by Heme Onc as outpatient. Thought to be iron 
deficiency, but cannot preclude indolent myelodysplastic 
syndrome (MDS). s/p ferumoxytol (___) and Feraheme (___) 
infusions as outpatient. Stable this admission. 

TRANSITIONAL ISSUES
==================
# Heart failure
[ ] patient eager to get home, but with resolving ___ on 
discharge, so discharged on diuretic holiday. Plan to start PO 
furosemide 40 mg the day after discharge, and to follow up with 
PCP as soon as possible. Regardless of PCP appointment, he 
should get repeat Chem10 within ___ days from discharge, faxed 
to PCP to evaluate electrolytes and creatinine. 

# T2DM
[ ] Patient was routinely hypoglycemic to ___ in AM, so ___ 
glargine was reduced from 66 to 60 during this hospitalization. 

# Pancytopenia
[ ] Noted to have stable chronic thrombocytopenia. Recommend 
outpatient workup.

# Atrial fibrillation
[ ] Anti-coagulation recommended - deferring until talk with 
cards outpatient. 
[ ] Stopped digoxin and started Carvedilol 

---Discharge weight: 110.1 kg (242.72 lb) 
---Discharge creatinine: 1.6
---Discharge sodium: 134
---Discharge potassium: 4.8
---Discharge diuretic: 24-hour diuretic holiday, plan to restart 
furosemide 40 mg PO daily the day after discharge. 

- Contact: Daughter ___ at ___
- Code: full 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
3. Losartan Potassium 100 mg PO DAILY 
4. Calcium Carbonate 500 mg PO QID:PRN Heart burn 
5. Fish Oil (Omega 3) 1000 mg PO BID 
6. MetFORMIN (Glucophage) 850 mg PO BID 
7. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
8. Atorvastatin 10 mg PO QPM 
9. Furosemide 20 mg PO DAILY 
10. Spironolactone 25 mg PO DAILY 
11. Multivitamins 1 TAB PO BID 
12. Fluticasone Propionate 110mcg 2 PUFF IH BID 
13. coenzyme Q10 100 mg oral bid 
14. Aspirin 81 mg PO DAILY 
15. Tamsulosin 0.4 mg PO DAILY 
16. albuterol sulfate 90 mcg/actuation inhalation Q6H PRN 
wheezing 
17. Vitamin B Complex 1 CAP PO BID 
18. Ascorbic Acid ___ mg PO BID 
19. Vitamin D 1000 UNIT PO BID 
20. Digoxin 0.125 mg PO DAILY 
21. Glargine 66 Units Bedtime

 
Discharge Medications:
1.  Carvedilol 6.25 mg PO BID 
RX *carvedilol 6.25 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth QPM Disp #*30 Tablet 
Refills:*0 
3.  Furosemide 40 mg PO DAILY 
RX *furosemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0 
4.  Glargine 60 Units Bedtime 
5.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
6.  albuterol sulfate 90 mcg/actuation inhalation Q6H PRN 
wheezing  
7.  Ascorbic Acid ___ mg PO BID  
8.  Aspirin 81 mg PO DAILY  
9.  Calcium Carbonate 500 mg PO QID:PRN Heart burn  
10.  coenzyme Q10 100 mg oral bid  
11.  Finasteride 5 mg PO DAILY  
12.  Fish Oil (Omega 3) 1000 mg PO BID  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
14.  Losartan Potassium 100 mg PO DAILY  
15.  MetFORMIN (Glucophage) 850 mg PO BID  
16.  Multivitamins 1 TAB PO BID  
17.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
18.  Spironolactone 25 mg PO DAILY  
19.  Tamsulosin 0.4 mg PO DAILY  
20.  Vitamin B Complex 1 CAP PO BID  
21.  Vitamin D 1000 UNIT PO BID  
22.Outpatient Lab Work
Chem10 within 4 days of discharge. ICD-10 code ___.9. Fax 
results to ___ Dr ___. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Heart failure with preserved ejection fraction
Acute on chronic hypoxemic respiratory failure

SECONDARY DIAGNOSIS
===================
Upper respiratory infection
Acute kidney injury

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

 It was a pleasure caring for you at ___.  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because of shortness of breath, swelling, 
and weight gain due to heart failure. You were found to have 
fluid on your lungs that was making it harder for you to breath. 

  
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
  - You were admitted to the hospital because you were retaining 
fluid because your heart was having trouble pumping. In the 
hospital you were give diuretic medication through your vein to 
help you urinate out the extra fluid. 
 - You had tests done of your heart (a stress test "pMIBI" and 
echocardiogram) to see if blood was getting to your heart muscle 
heart muscle, and to see if it was having trouble squeezing. 
They showed that there were no changes from your last test, and 
that your heart is squeezing well.  
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Your weight at discharge is  110.1 kg (242.72 lb). Please 
weigh yourself today at home and use this as your new baseline  
 - Please weigh yourself every day in the morning after you 
urinate and before you have breakfast. Call your doctor if your 
weight goes up by more than 3 lbs. 
 - You should take all of your medication as directed and go to 
your follow-up appointments. Your medications and your 
appointments are listed below. 
 - You shouldn't take any of your diuretic medication 
(furosemide) today (___). You should start taking 40 mg 
furosemide tomorrow (___). 
 - You should go to the lab to get blood work done within the 
next few days before you go to see your primary care doctor. You 
have a prescription for this.
 - You should call your primary care doctor  ___ 
___ to make an appointment to see him within the next 
few days.
 - You should call your cardiologist Dr. ___ ___ to 
set up an appointment within the next two weeks. 

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  
 
Followup Instructions:
___